2147-12-29 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - increased dilt gtt to 15 mg/hr
   - metoprolol 50 mg PO x 1, increased metop to 75 mg PO TID, given
   persistent RVR, no hemodynamic instability
   Allergies:
   Iodine; Iodine Containing
   Nausea/Vomiting
   Optiray 350 (Intraven) (Ioversol)
   Cough; flushing
   Last dose of Antibiotics:
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Diltiazem - [**2147-12-28**] 05:45 PM
   Enoxaparin (Lovenox) - [**2147-12-28**] 07:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-12-29**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 92 (79 - 153) bpm
   BP: 99/48(56) {90/48(56) - 129/89(100)} mmHg
   RR: 28 (22 - 36) insp/min
   SpO2: 95%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 53 Inch
             Total In:
                                                                  5,267 mL
                                                                    295 mL
   PO:
                                                                    120 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  3,147 mL
                                                                    115 mL
   Blood products:
   Total out:
                                                                    875 mL
                                                                    455 mL
   Urine:
                                                                    600 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,392 mL
                                                                   -160 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///16/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   289
   12.7
   146 mg/dL
   0.9 mg/dL
   16 mEq/L
   4.1 mEq/L
   2 mg/dL
   103 mEq/L
   132 mEq/L
   36.8
   8.2
        [image002.jpg]
                             [**2147-12-28**]  05:03 PM
                             [**2147-12-29**]  05:54 AM
   Cr
   0.9
   TropT
   <0.01
   Glucose
   146
   Other labs: CK / CKMB / Troponin-T:80/2/<0.01, ALT / AST:58/35, Alk
   Phos / T Bili:102/, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN:  52 y.o. Female with h.o. metastatic Melanoma to
   lungs on clinic trial, h.o. DVT/PE s/p IVC filter initially admitted
   for HA, n/v, poor PO intake. Transferred to the ICU for A. flutter with
   RVR w/ hypotension.
   .
   ##. A. flutter with RVR: Pt has history of SVT vs AVNRT vs A. flutter
   with RVR. Pt noted to have SVT this AM and showed A. flutter with RVR
   after receiving Adenosine x 2. Currently in A. Flutter.  Flutter is
   notoriously difficult to rate control, and if this continues to be an
   issue cardioversion without TEE would be warranted given a/c on
   lovenox.
   - will bolus 1L NS x 1
   - continue to follow urine output
   - reintroduce PO regimen of Diltiazem 90mg QID and wean off drip
   - will continue Metoprolol 75 TID for now
   - currently on Lovenox
   - continue on tele
   - pt has 2 PIV for access
   .
   ## Hyponatremia/Concentrated Urine:  In light of labs inconsistent with
   volume depletion and a drop in Na with IV hydration, and sodium avid
   urine in the face of hyponatremia, (urine Na
 49).  Suspect SIADH [**1-23**]
   lung mets.
   - free water restriction.
   .
   ##. Hypotension: Currently improved with improved rate control
   - echo to determine why patient was pre-load dependant
   .
   ##. N/V: Pt endorsed nausea over the past 2 weeks which lead to her
   admission as well as emesis x 3 days. Pt also endorses 3 days of
   diarrhea. Given the concomittant emesis, diarrhea which has now
   resolved I suspect that this may be viral gastroenteritis. Her diarrhea
   has now resolved, she is tolerating clear. Her other work-up has
   included CT head which was negative for any masses. CT abd/pelvis was
   negative for any signs of intra-abdominal pathology such as ileus,
   extrinsic compression. Abdominal exam is benign.
   - ADAT
   - Continue home regimen of Reglan, Compazine, Zofran prn
   ##. h.o.PE: Pt has history of P. Embolism even on Lovenox. Pt was
   previously on Coumadin for her A. fib however this appears to have been
   discontinued after her episodes of hemoptysis. Will continue on
   Lovenox, there is mention on admission note that she developed
   P.Embolism even with filter in place.
   - will increase dose of Lovenox to 150 SC BID
   - discuss with oncologist re: anticoagulation history, ?P. Embolism on
   Lovenox and filter
   ##. Metastatic Melanoma: Pt has mets to the lung and is currently being
   followed by Dr. [**Last Name (STitle) 948**]. She is currently on Ipilimumab as part of
   the compassionate trial for Monotherapy in Subjects with
   Unresectable Stage III or IV Melanoma.
   - notify pt's Oncologist of [**Hospital Unit Name 10**] admission
   - f/u onc recs, if any
   ##. Ppx: Currently on Lovenox S.C. [**Hospital1 **], home regimen of PPI.
   ##. Sinusitis: Pt was started on Ceftriaxone for tx of acute Sinusitis
   that was thought to be related to her admission HA. On review of CT
   scan no signs of sinusitis.
   - will d/c Ceftriaxone
   ##. ACCESS: PIV's
   ##. CODE STATUS: Confirmed FULL CODE
   ##. DISPOSITION: Pending resolution of symptoms.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-12-28**] 02:22 PM
   22 Gauge - [**2147-12-28**] 08:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2147-12-30 06:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Discussed case with cards consult, suggested amiodarone bolus and
   drip.  Bolus and drip started at 7:30, other metop and dilt stopped.
   - Cards would consider d/c cardioversion if still refractory with low
   pressures.
   Allergies:
   Iodine; Iodine Containing
   Nausea/Vomiting
   Optiray 350 (Intraven) (Ioversol)
   Cough; flushing
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Amiodarone - [**2147-12-29**] 06:45 PM
   Enoxaparin (Lovenox) - [**2147-12-29**] 08:49 PM
   Hydromorphone (Dilaudid) - [**2147-12-29**] 11:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-12-30**] 06:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 39.1
C (102.3
   Tcurrent: 39.1
C (102.3
   HR: 168 (76 - 168) bpm
   BP: 100/57(65) {57/42(51) - 130/69(81)} mmHg
   RR: 30 (23 - 35) insp/min
   SpO2: 94%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 63 Inch
             Total In:
                                                                  2,129 mL
                                                                    161 mL
   PO:
                                                                    820 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,309 mL
                                                                    101 mL
   Blood products:
   Total out:
                                                                  1,470 mL
                                                                    315 mL
   Urine:
                                                                  1,420 mL
                                                                    315 mL
   NG:
   Stool:
                                                                     50 mL
   Drains:
   Balance:
                                                                    659 mL
                                                                   -154 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///22/
   Physical Examination
   GENERAL: Obese Caucasian Female lying down in bed in NARD
   HEENT: No scleral icterus. EOMI.
   CARDIAC: S1, S2, irregularly irregular, tachy (120s), unable to
   appreciate m/g/r given rate.
   LUNGS: Some scattered wheezing diffusely noted over LLL otherwise CTAB
   ABDOMEN: Obese, soft, NT, ND, +BS x 4
   EXTREMITIES: No edema noted
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Able to walk to
   commode unassisted.
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   278 K/uL
   11.9 g/dL
   219 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.7 mEq/L
   1 mg/dL
   100 mEq/L
   131 mEq/L
   35.3 %
   9.7 K/uL
        [image002.jpg]
                             [**2147-12-28**]  05:03 PM
                             [**2147-12-29**]  05:54 AM
                             [**2147-12-29**]  06:02 PM
                             [**2147-12-30**]  04:20 AM
   WBC
   8.1
   9.7
   Hct
   34.6
   35.3
   Plt
   280
   278
   Cr
   0.9
   0.8
   0.8
   TropT
   <0.01
   Glucose
   146
   123
   219
   Other labs: CK / CKMB / Troponin-T:80/2/<0.01, ALT / AST:58/35, Alk
   Phos / T Bili:102/, Differential-Neuts:50.0 %, Lymph:36.9 %, Mono:6.4
   %, Eos:6.4 %, Ca++:8.4 mg/dL, Mg++:1.4 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   52 y.o. Female with h.o. metastatic Melanoma to lungs on clinic trial,
   h.o. DVT/PE s/p IVC filter initially admitted for HA, n/v, poor PO
   intake. Transferred to the ICU for A. flutter with RVR w/ hypotension.
   .
   ##. A. flutter with RVR: Pt has history of SVT vs AVNRT vs A. flutter
   with RVR. Pt noted to have SVT this AM and showed A. flutter with RVR
   after receiving Adenosine x 2. Currently in A. Flutter.  Flutter is
   notoriously difficult to rate control, and if this continues to be an
   issue cardioversion without TEE would be warranted given a/c on
   lovenox.
   - continue to follow urine output
   - started amiodarone, adding back dilt. For better rate control.
   - if persistently difficult to rate control would d/c cardiovert her
   - currently on Lovenox
   - continue on tele
   - pt has 2 PIV for access
   .
   ##Fever
 Her UA was negative, all other culture data is negative.  She
   is febrile in the absence of leukocytosis.  Other possible etiologies
   are DVT
s given that she has had them through her lovenox in the past.
   Another possible source is her Melanoma itself.
   - LENI
s for DVT
   -CT abd/pelvis with contrast to look for mets.
   .
   ## Hyponatremia/Concentrated Urine:  In light of labs inconsistent with
   volume depletion and a drop in Na with IV hydration, and sodium avid
   urine in the face of hyponatremia, (urine Na
 49).  Suspect SIADH [**1-23**]
   lung mets.
   - 1.5L free water restriction.
   .
   ##. Hypotension: Currently improved with improved rate control
   - echo shows preserved EF,  no diastolic dysfunction
   .
   ##. N/V: Pt endorsed nausea over the past 2 weeks which lead to her
   admission as well as emesis x 3 days. Pt also endorses 3 days of
   diarrhea. Given the concomittant emesis, diarrhea which has now
   resolved I suspect that this may be viral gastroenteritis. Her diarrhea
   has now resolved, she is tolerating clear. Her other work-up has
   included CT head which was negative for any masses. CT abd/pelvis was
   negative for any signs of intra-abdominal pathology such as ileus,
   extrinsic compression. Abdominal exam is benign.
   - ADAT
   - Continue home regimen of Reglan, Compazine, Zofran prn
   .
   ##. h.o.PE: Pt has history of P. Embolism even on Lovenox. Pt was
   previously on Coumadin for her A. fib however this appears to have been
   discontinued after her episodes of hemoptysis. Will continue on
   Lovenox, there is mention on admission note that she developed
   P.Embolism even with filter in place.
   - will increase dose of Lovenox to 150 SC BID
   - discuss with oncologist re: anticoagulation history, ?P. Embolism on
   Lovenox and filter
   .
   ##. Metastatic Melanoma: Pt has mets to the lung and is currently being
   followed by Dr. [**Last Name (STitle) 948**]. She is currently on Ipilimumab as part of
   the compassionate trial for Monotherapy in Subjects with
   Unresectable Stage III or IV Melanoma.
   - Dr. [**Last Name (STitle) 948**]
s input greatly appreciated
   - f/u onc recs, if any
    .
   ##. Ppx: Currently on Lovenox S.C. [**Hospital1 **], home regimen of PPI.
   .
   ##. Sinusitis: Pt was started on Ceftriaxone for tx of acute Sinusitis
   that was thought to be related to her admission HA. On review of CT
   scan no signs of sinusitis.
   - will d/c Ceftriaxone
   ##. ACCESS: PIV's
   ##. CODE STATUS: Confirmed FULL CODE
   ##. DISPOSITION: Pending resolution of symptoms.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2147-12-29**] 04:59 PM
   Prophylaxis:
   DVT:  Lovenox
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2147-12-30 09:02:00 Physician Attending Progress Note
Chief Complaint: Afib/flutter, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient continues in aflutter with rates up to 130's. Tends to respond
   to IV diltiazem and po doses have been increased. BP has been stable.
   Patient remains febrile. No clear source of infection.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2147-12-29**] 10:53 AM
 PICC LINE - START [**2147-12-29**] 04:59 PM
 URINE CULTURE - At [**2147-12-29**] 05:54 PM
 BLOOD CULTURED - At [**2147-12-29**] 06:24 PM
   2 sets of blood cxs sesnt off from left picc line
 EKG - At [**2147-12-30**] 01:00 AM
 EKG - At [**2147-12-30**] 06:00 AM
 FEVER - 102.3
F - [**2147-12-30**] 04:00 AM
   History obtained from Patient
   Allergies:
   Iodine; Iodine Containing
   Nausea/Vomiting
   Optiray 350 (Intraven) (Ioversol)
   Cough; flushing
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Amiodarone - [**2147-12-29**] 06:45 PM
   Diltiazem - [**2147-12-30**] 06:00 AM
   Hydromorphone (Dilaudid) - [**2147-12-30**] 06:43 AM
   Enoxaparin (Lovenox) - [**2147-12-30**] 07:43 AM
   Other medications:
   lovanox
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-12-30**] 09:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 39.1
C (102.3
   Tcurrent: 37
C (98.6
   HR: 144 (76 - 168) bpm
   BP: 103/62(71) {57/42(51) - 130/74(81)} mmHg
   RR: 22 (22 - 35) insp/min
   SpO2: 93%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 63 Inch
             Total In:
                                                                  2,129 mL
                                                                    562 mL
   PO:
                                                                    820 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  1,309 mL
                                                                    202 mL
   Blood products:
   Total out:
                                                                  1,470 mL
                                                                    475 mL
   Urine:
                                                                  1,420 mL
                                                                    475 mL
   NG:
   Stool:
                                                                     50 mL
   Drains:
   Balance:
                                                                    659 mL
                                                                     87 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   Wheezes : Diffuse expiratory wheezes, No(t) Diminished: , No(t) Absent
   : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present,
   Distended, No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Trace edema, Left lower
   extremity edema: Trace
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.9 g/dL
   278 K/uL
   219 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.7 mEq/L
   1 mg/dL
   100 mEq/L
   131 mEq/L
   35.3 %
   9.7 K/uL
        [image002.jpg]
                             [**2147-12-28**]  05:03 PM
                             [**2147-12-29**]  05:54 AM
                             [**2147-12-29**]  06:02 PM
                             [**2147-12-30**]  04:20 AM
   WBC
   8.1
   9.7
   Hct
   34.6
   35.3
   Plt
   280
   278
   Cr
   0.9
   0.8
   0.8
   TropT
   <0.01
   Glucose
   146
   123
   219
   Other labs: CK / CKMB / Troponin-T:80/2/<0.01, ALT / AST:58/35, Alk
   Phos / T Bili:102/, Differential-Neuts:50.0 %, Lymph:36.9 %, Mono:6.4
   %, Eos:6.4 %, Albumin:3.2 g/dL, Ca++:8.4 mg/dL, Mg++:1.4 mg/dL, PO4:1.9
   mg/dL
   Imaging: CXR: suprahilar density/mass (stable). Slight increase in
   interstitial markings. No definitive effusions
   Assessment and Plan
 ATRIAL FLUTTER (AFLUTTER)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 NAUSEA / VOMITING
 HEADACHE
 MELANOMA (CANCER, MALIGNANT NEOPLASM, SKIN)
 .H/O PULMONARY EMBOLISM (PE), ACUTE
   HYPOTENSION
   ========================
   Still in Aflutter/fib with rapid rate. Now getting load of amiodarone
   and increased dose of diltiazem
 BP okay, but below baseline. Will
   complete load of amiodarone this evening; start diltiazem infusion. If
   patient remains in flutter by morning, would consider electrical
   cardioversion. Check with cardiology re: their desire for TEE echo to
   assess for atrial clot. Not clear why patient is in flutter - echo
   unrevealing re: CHF and pericardial disease. DVT/pulmonary embolism
   possible; now on full dose lovanox.
   Patient with fever; recheck UA. CXR unrevealing for pneumonia. Lower
   extremity LENI for assessment possible DVT. Observe off antibiotics.
   Intermittent nausea and vomiting. Continues on anti-emetics. No
   diarrhea now.
   Serum Na above 130. Continues on free water restriction.
   ICU Care
   Nutrition:
   Comments: Clear liqs.
   Glycemic Control:
   Lines:
   PICC Line - [**2147-12-29**] 04:59 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP:
   Comments: Not applicable
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2147-12-31 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   No complaints. No chest pain, SOB, palpitiations. Feels thirsty but
   does not want to eat. No N/V except after taking PO K this AM.
   - still tachy on dilt gtt at max and amio gtt
   - will likely need full cards consult and DC cardioversion in AM
   - BP stable
   - LENIs neg
   - UA with fewer WBC, yesterday's cx neg
   - u lytes possibly consistent with SIADH, trying fluid restriction
   24 Hour Events:
 ULTRASOUND - At [**2147-12-30**] 11:26 AM
   LENIs
   Allergies:
   Iodine; Iodine Containing
   Nausea/Vomiting
   Optiray 350 (Intraven) (Ioversol)
   Cough; flushing
   Last dose of Antibiotics:
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2147-12-30**] 07:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-12-31**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.5
   HR: 129 (108 - 157) bpm
   BP: 115/54(66) {86/41(54) - 120/82(91)} mmHg
   RR: 33 (21 - 33) insp/min
   SpO2: 95%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 63 Inch
             Total In:
                                                                  1,478 mL
                                                                    278 mL
   PO:
                                                                    800 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    678 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                  2,195 mL
                                                                    565 mL
   Urine:
                                                                  2,195 mL
                                                                    565 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -717 mL
                                                                   -287 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   GENERAL: Obese Caucasian Female lying down in bed in NARD
   HEENT: No scleral icterus. EOMI.
   CARDIAC: S1, S2, irregularly irregular, tachy (120s), unable to
   appreciate m/g/r given rate.
   LUNGS: Some scattered wheezing diffusely noted over LLL otherwise CTAB
   ABDOMEN: Obese, soft, NT, ND, +BS x 4
   EXTREMITIES: No edema noted
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Able to walk to
   commode unassisted.
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   280 K/uL
   12.2 g/dL
   154 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.9 mEq/L
   1 mg/dL
   100 mEq/L
   135 mEq/L
   37.3 %
   8.8 K/uL
        [image002.jpg]
                             [**2147-12-28**]  05:03 PM
                             [**2147-12-29**]  05:54 AM
                             [**2147-12-29**]  06:02 PM
                             [**2147-12-30**]  04:20 AM
                             [**2147-12-31**]  05:23 AM
   WBC
   8.1
   9.7
   8.8
   Hct
   34.6
   35.3
   37.3
   Plt
   280
   278
   280
   Cr
   0.9
   0.8
   0.8
   0.8
   TropT
   <0.01
   Glucose
   146
   123
   219
   154
   Other labs: CK / CKMB / Troponin-T:80/2/<0.01, ALT / AST:58/35, Alk
   Phos / T Bili:102/, Differential-Neuts:50.0 %, Lymph:36.9 %, Mono:6.4
   %, Eos:6.4 %, Albumin:3.2 g/dL, Ca++:8.3 mg/dL, Mg++:1.5 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
   52 y.o. Female with h.o. metastatic Melanoma to lungs on clinic trial,
   h.o. DVT/PE s/p IVC filter initially admitted for HA, n/v, poor PO
   intake. Transferred to the ICU for A. flutter with RVR w/ hypotension.
   .
   ##. A. flutter with RVR: Pt has history of SVT vs AVNRT vs A. flutter
   with RVR. Pt continues in constant flutter with rates poorly controlled
   on amio and dilt gtt. BP has been stable and pt asymptomatic. Has
   better chance of converting electrically. Will discuss cardioversion
   without TEE since presented in sinus and was on therapeutic dose
   Lovenox within 24 hours from admission.
   - attempt DC cardioversion today
   - cont Lovenox
   .
   ##Fever
 Her UA was negative, all other culture data is negative and
   no symptoms of infection.  Afebrile now for 24 hours.  possible source
   is her Melanoma itself.
   - LENI
s neg for DVT
   - discuss with onc CT abd/pelvis with contrast to look for mets.
   .
   ## Hyponatremia/Concentrated Urine:  Suspect SIADH [**1-23**] lung mets.
   Appears euvolemic and sodium improved with fluid restriction.
   - 1.5L free water restriction.
   - if remains today, will give IVF to maintain this fluid goal
   .
   ##. N/V: Pt endorsed nausea over the past 2 weeks which lead to her
   admission as well as emesis x 3 days. Pt also endorses 3 days of
   diarrhea. Given the concomittant emesis, diarrhea which has now
   resolved I suspect that this may be viral gastroenteritis. Her diarrhea
   has now resolved, she is tolerating cleasr. Her other work-up has
   included CT head which was negative for any masses. CT abd/pelvis was
   negative for any signs of intra-abdominal pathology such as ileus,
   extrinsic compression. Abdominal exam is benign.
   - ADAT
   - Continue home regimen of Compazine, Zofran prn
   - add Reglan and Ativan prn
   .
   ##. h.o.PE: Pt has history of P. Embolism even on Lovenox. Pt was
   previously on Coumadin for her A. fib however this appears to have been
   discontinued after her episodes of hemoptysis. Will continue on
   Lovenox, there is mention on admission note that she developed
   P.Embolism even with filter in place.
   - cont Lovenox 150 SC BID
   .
   ##. Metastatic Melanoma: Pt has mets to the lung and is currently being
   followed by Dr. [**Last Name (STitle) 948**]. She is currently on Ipilimumab as part of
   clinical trial.
   Unresectable Stage III or IV Melanoma.
   - Dr. [**Last Name (STitle) 948**]
s input greatly appreciated
   - f/u onc recs, if any
    .
   ##. Ppx: Currently on Lovenox S.C. [**Hospital1 **], home regimen of PPI.
   .
   ##. Sinusitis: Pt was started on Ceftriaxone for tx of acute Sinusitis
   that was thought to be related to her admission HA. On review of CT
   scan no signs of sinusitis.
   - D/Ced Ceftriaxone
   ##. ACCESS: PIV's
   ##. CODE STATUS: Confirmed FULL CODE
   ##. DISPOSITION: Pending resolution of symptoms.
   ICU Care
   Nutrition: NPO for cardioversion
   Glycemic Control:
   Lines:
   PICC Line - [**2147-12-29**] 04:59 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: [**Hospital Unit Name 10**] pending cardioversion and rate control

2147-12-31 09:25:00 Physician Attending Progress Note
Chief Complaint: Afib, metastatic melanoma, hyponatremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Amiodarone load completed. Patient remains in Afib at rapid ventricular
   rate. LENI's negative. Patient continues to deny chest pain and
   palpitations.
   24 Hour Events:
 ULTRASOUND - At [**2147-12-30**] 11:26 AM
   LENIs
   History obtained from Patient
   Allergies:
   Iodine; Iodine Containing
   Nausea/Vomiting
   Optiray 350 (Intraven) (Ioversol)
   Cough; flushing
   Last dose of Antibiotics:
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Other medications:
   Protonix, lovanox, atrovent, amiodarone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-12-31**] 09:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.9
   HR: 154 (108 - 157) bpm
   BP: 116/65(76) {86/41(54) - 120/82(91)} mmHg
   RR: 27 (21 - 33) insp/min
   SpO2: 95%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 63 Inch
             Total In:
                                                                  1,478 mL
                                                                    573 mL
   PO:
                                                                    800 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    678 mL
                                                                    273 mL
   Blood products:
   Total out:
                                                                  2,195 mL
                                                                    645 mL
   Urine:
                                                                  2,195 mL
                                                                    645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -717 mL
                                                                    -72 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Patient thirsty
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Wheezes : Diffuse expiratory )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   12.2 g/dL
   280 K/uL
   154 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.9 mEq/L
   1 mg/dL
   100 mEq/L
   135 mEq/L
   37.3 %
   8.8 K/uL
        [image002.jpg]
                             [**2147-12-28**]  05:03 PM
                             [**2147-12-29**]  05:54 AM
                             [**2147-12-29**]  06:02 PM
                             [**2147-12-30**]  04:20 AM
                             [**2147-12-31**]  05:23 AM
   WBC
   8.1
   9.7
   8.8
   Hct
   34.6
   35.3
   37.3
   Plt
   280
   278
   280
   Cr
   0.9
   0.8
   0.8
   0.8
   TropT
   <0.01
   Glucose
   146
   123
   219
   154
   Other labs: CK / CKMB / Troponin-T:80/2/<0.01, ALT / AST:58/35, Alk
   Phos / T Bili:102/, Differential-Neuts:50.0 %, Lymph:36.9 %, Mono:6.4
   %, Eos:6.4 %, Albumin:3.2 g/dL, Ca++:8.3 mg/dL, Mg++:1.5 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
 ATRIAL FLUTTER (AFLUTTER)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 NAUSEA / VOMITING
 HEADACHE
 MELANOMA (CANCER, MALIGNANT NEOPLASM, SKIN)
 .H/O PULMONARY EMBOLISM (PE), ACUTE
   FEVER
   HYPONATREMIA
   ====================
   Patient continues in rapid rate with what is likely afib/flutter.
   Carotid sinus massage this AM on rounds had no effect re: blocking down
   the rate. She has been fully loaded with amiodarone. I think we are now
   at the point that we need to consider electrical cardioversion. Patient
   on lovanox, although was not at full anticoagulation doses for awhile.
   Will check with cardiology re: TEE pre-cardioversion.
   Patient very hesitant to eat; still has mild nausea despite
   anti-emetics. Consider metaclopramide if it hasn't been tried recently.
   Hyponatremia stable.
   Addendum: cardiology consulted. They indicated that she does not need
   delay in cardioversion for TEE if she was in a sinus rhythm when
   admitted to the hospital and high dose lovanox started within 24 hours
   after initiation of afib/flutter.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2147-12-29**] 04:59 PM
   Prophylaxis:
   DVT: LMW Heparin(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2148-01-01 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - DC cardioversion today with 100 joules, midaz 3 mg -> out of a.
   fib/flutter, into sinus tachycardia
   Allergies:
   Iodine; Iodine Containing
   Nausea/Vomiting
   Optiray 350 (Intraven) (Ioversol)
   Cough; flushing
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2147-12-31**] 01:01 PM
   Hydromorphone (Dilaudid) - [**2148-1-1**] 06:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-1-1**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 128 (113 - 163) bpm
   BP: 135/92(99) {76/31(43) - 135/92(108)} mmHg
   RR: 23 (19 - 35) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                  1,631 mL
                                                                    567 mL
   PO:
                                                                    640 mL
             TF:
   IVF:
                                                                    991 mL
                                                                    567 mL
   Blood products:
   Total out:
                                                                  1,735 mL
                                                                    290 mL
   Urine:
                                                                  1,635 mL
                                                                    290 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -104 mL
                                                                    277 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///20/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   290 K/uL
   12.0 g/dL
   149 mg/dL
   0.8 mg/dL
   20 mEq/L
   3.8 mEq/L
   2 mg/dL
   99 mEq/L
   131 mEq/L
   35.7 %
   11.8 K/uL
        [image002.jpg]
                             [**2147-12-28**]  05:03 PM
                             [**2147-12-29**]  05:54 AM
                             [**2147-12-29**]  06:02 PM
                             [**2147-12-30**]  04:20 AM
                             [**2147-12-31**]  05:23 AM
                             [**2148-1-1**]  04:19 AM
   WBC
   8.1
   9.7
   8.8
   11.8
   Hct
   34.6
   35.3
   37.3
   35.7
   Plt
   280
   278
   280
   290
   Cr
   0.9
   0.8
   0.8
   0.8
   0.8
   TropT
   <0.01
   Glucose
   146
   123
   219
   154
   149
   Other labs: CK / CKMB / Troponin-T:80/2/<0.01, ALT / AST:58/35, Alk
   Phos / T Bili:102/, Differential-Neuts:50.0 %, Lymph:36.9 %, Mono:6.4
   %, Eos:6.4 %, Albumin:3.2 g/dL, Ca++:8.4 mg/dL, Mg++:1.4 mg/dL, PO4:1.6
   mg/dL
   Assessment and Plan
   52 y.o. Female with h.o. metastatic Melanoma to lungs on clinic trial,
   h.o. DVT/PE s/p IVC filter initially admitted for HA, n/v, poor PO
   intake. Transferred to the ICU for A. flutter with RVR w/ hypotension.
   .
   ##. A. flutter with RVR: Pt has history of SVT vs AVNRT vs A. flutter
   with RVR. Patient cardioverted yesterday, successfully.  BP has been
   stable and pt asymptomatic.  Currently only on amiodarone.
   -Cont. Amiodarone
   .
   #Sinus Tachycardia: After Cardioversion patient has been in sinus
   tachycardia, unresponsive to a 1 liter fluid bolus.  Patient is not in
   pain, afebrile, and none of her cultures are positive, and CXR
s are
   negative.  Chest CT to evaluate for disease progression,
   post-obstructive PNA, atypical PNA.
   - ? cytokine effect from underlying malignancy, vs untreated infection
   (sinusitis vs atypical PNA vs Viral URI).
   .
   ##Fever
 Her UA was negative, all other culture data is negative and
   no symptoms of infection.  Afebrile now for 24 hours.  possible source
   is her Melanoma itself.  Infectious etiologies include above.
   - LENI
s neg for DVT
   - discuss with onc CT abd/pelvis with contrast to look for mets.
   .
   ## Hyponatremia/Concentrated Urine:  Suspect SIADH [**1-23**] lung mets.
   Appears euvolemic and sodium had improved with fluid restriction, and
   worsened with IVF bolus overnight
   - 1.5L free water restriction.
   .
   ##. N/V: Pt endorsed nausea over the past 2 weeks which lead to her
   admission as well as emesis x 3 days. Pt also endorses 3 days of
   diarrhea. Given the concomittant emesis, diarrhea which has now
   resolved I suspect that this may be viral gastroenteritis. Her diarrhea
   has now resolved, she is tolerating cleasr. Her other work-up has
   included CT head which was negative for any masses. CT abd/pelvis was
   negative for any signs of intra-abdominal pathology such as ileus,
   extrinsic compression. Abdominal exam is benign.
   - ADAT
   - Continue home regimen of Compazine, Zofran prn
   - add Reglan and Ativan prn
   .
   ##. h.o.PE: Pt has history of P. Embolism even on Lovenox. Pt was
   previously on Coumadin for her A. fib however this appears to have been
   discontinued after her episodes of hemoptysis. Will continue on
   Lovenox, there is mention on admission note that she developed
   P.Embolism even with filter in place.
   - cont Lovenox 150 SC BID
   .
   ##. Metastatic Melanoma: Pt has mets to the lung and is currently being
   followed by Dr. [**Last Name (STitle) 948**]. She is currently on Ipilimumab as part of
   clinical trial.
   Unresectable Stage III or IV Melanoma.
   - Dr. [**Last Name (STitle) 948**]
s input greatly appreciated
   - f/u onc recs, if any
    .
   ##. Ppx: Currently on Lovenox S.C. [**Hospital1 **], home regimen of PPI.
   .
   ##. Sinusitis: Pt was started on Ceftriaxone for tx of acute Sinusitis
   that was thought to be related to her admission HA. On review of CT
   scan no signs of sinusitis.
   - D/Ced Ceftriaxone
   ##. ACCESS: PIV's
   ##. CODE STATUS: Confirmed FULL CODE
   ##. DISPOSITION: Floor today
   ICU Care
   Nutrition: NPO for cardioversion
   Glycemic Control:
   Lines:
   PICC Line - [**2147-12-29**] 04:59 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: Floor today

2148-01-02 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - TSH low, Cortisol low - added-on T4, IGF-1,
   Prolactin (for hypopituitarism)
   - started on levaquin for sinusitis
   24 Hour Events:
 URINE CULTURE - At [**2148-1-1**] 12:02 PM
 BLOOD CULTURED - At [**2148-1-1**] 12:14 PM
   Allergies:
   Iodine; Iodine Containing
   Nausea/Vomiting
   Optiray 350 (Intraven) (Ioversol)
   Cough; flushing
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-1-2**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 116 (116 - 127) bpm
   BP: 117/83(91) {98/50(64) - 155/83(91)} mmHg
   RR: 27 (23 - 36) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                  1,352 mL
                                                                    122 mL
   PO:
                                                                    460 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    892 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  1,645 mL
                                                                    630 mL
   Urine:
                                                                  1,645 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -293 mL
                                                                   -508 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, CPAP mask
   SpO2: 91%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   302 K/uL
   12.6 g/dL
   217 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.4 mEq/L
   3 mg/dL
   99 mEq/L
   134 mEq/L
   38.6 %
   14.1 K/uL
        [image002.jpg]
                             [**2147-12-28**]  05:03 PM
                             [**2147-12-29**]  05:54 AM
                             [**2147-12-29**]  06:02 PM
                             [**2147-12-30**]  04:20 AM
                             [**2147-12-31**]  05:23 AM
                             [**2148-1-1**]  04:19 AM
                             [**2148-1-2**]  05:32 AM
   WBC
   8.1
   9.7
   8.8
   11.8
   14.1
   Hct
   34.6
   35.3
   37.3
   35.7
   38.6
   Plt
   280
   278
   280
   290
   302
   Cr
   0.9
   0.8
   0.8
   0.8
   0.8
   0.8
   TropT
   <0.01
   Glucose
   146
   123
   219
   154
   149
   217
   Other labs: CK / CKMB / Troponin-T:80/2/<0.01, ALT / AST:58/35, Alk
   Phos / T Bili:102/, Differential-Neuts:50.0 %, Lymph:36.9 %, Mono:6.4
   %, Eos:6.4 %, Albumin:3.2 g/dL, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:1.7
   mg/dL
   .
   Chest CT:
   IMPRESSION:
   1. Increased size of large right mediastinal and hilar masses, with
   increased mass effect on the trachea, and worsening obstruction of the
   right middle lobe bronchus, and segmental right lower lobe bronchi.
   .
   2. Findings most consistent with mild pulmonary edema, including new
   small bilateral pleural effusions, scattered areas of ground-glass
   opacity, and mild interlobular septal thickening.
   Assessment and Plan
   52 y.o. Female with h.o. metastatic Melanoma to lungs on clinic trial,
   h.o. DVT/PE s/p IVC filter initially admitted for HA, n/v, poor PO
   intake. Transferred to the ICU for A. flutter with RVR w/ hypotension.
   ..
   #. q/o hypopituitarism: Pt has low AM cortisol, with low TSH,
   concerning for pituitary process. Study drug for her melanoma can
   apparently cause hypopituitarism. PRL was normal. T4 was borderline
   low. IGF-1 pending.
   - endocrine consult
   - discuss with onc
   .
   ##. A. flutter with RVR: Pt has history of SVT vs AVNRT vs A. flutter
   with RVR. Patient cardioverted  successfully.  BP has been stable and
   pt asymptomatic.
   -Cont. Amiodarone (D3 at 400 mg TID)
   .
   #Sinus Tachycardia/leukocytosis: After Cardioversion patient has been
   in sinus tachycardia, unresponsive to a 1 liter fluid bolus.  Patient
   is not in pain, afebrile, and none of her cultures are positive, and
   CXR
s are negative.  Chest CT shows worsening malignancy but no PNA.
   One possibility is cytokine release and inflammatory response from
   chemotherapy (since it enhances immune response in general in order to
   kill malignant cells)
   - treat empirically for sinusitis with Levaquin (D2/5)
   - if no improvement, may atrribute to cytokine response from underlying
   malignancy
   .
   # wheezing: [**Month (only) 11**] be [**1-23**] volume overload since improved with diuresis
   today. Also may be component of compression of bronchi by tumor, which
   would not expect to be improved in the short term.
   - cont atrovent nebs prn
   - wean 02 NC as tolerated
   - TBB goal 500-1L negative today
   ..
   ## Hyponatremia/Concentrated Urine:  Suspect SIADH [**1-23**] lung mets.
   Appears euvolemic and sodium had improved with fluid restriction, and
   worsened with IVF.
   - 1.5L free water restriction.
   .
   ##. N/V: Initial N/V was consistent with viral gastroenteritis. Her
   other work-up has included CT head which was negative for any masses.
   CT abd/pelvis was negative for any signs of intra-abdominal pathology
   such as ileus, extrinsic compression. Abdominal exam is benign. Current
   issue is anorexia more than N/V.
   - consider megesterol for appetite stimulation
   - ADAT
   - Continue home regimen of Compazine, Zofran prn
   - add Reglan and Ativan prn
   .
   ##. h.o.PE: Pt has history of P. Embolism even on Lovenox. Pt was
   previously on Coumadin for her A. fib however this appears to have been
   discontinued after her episodes of hemoptysis. Will continue on
   Lovenox, there is mention on admission note that she developed
   P.Embolism even with filter in place.
   - cont Lovenox 150 SC BID
   .
   ##. Metastatic Melanoma: Pt has mets to the lung and is currently being
   followed by Dr. [**Last Name (STitle) 948**]. She is currently on Ipilimumab as part of
   clinical trial.
   Unresectable Stage III or IV Melanoma.
   - Dr. [**Last Name (STitle) 948**]
s input greatly appreciated
   - f/u onc recs, if any
    .
   ##. Ppx: Currently on Lovenox S.C. [**Hospital1 **], home regimen of PPI.
   ##. ACCESS: PIV's
   ##. CODE STATUS: Confirmed FULL CODE
   ##. DISPOSITION: Floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2147-12-29**] 04:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: